US09371320B2
B) 4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine
To a solution of 1-tert-butyl-4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine (2.2 g) in trifluoroacetic acid (50 mL) was added water (5 mL), and the mixture was stirred overnight at 130° C. The reaction mixture was concentrated under reduced pressure. To the obtained residue was added saturated aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.332 g).

reactant | 1-tert-butyl-4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine | 2.2 g | C(C)(C)(C)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)N2CCOCC2 | C21H26N4O2
reactant | water | 5 mL | O | H2O
solvent | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine | 0.332 g | COC1=NC=CC2=C1C(=NN2)C2=CC=C(C=C2)N2CCOCC2 | C17H18N4O2
